US05247085
a) 6-[[3-Acetoxy-2-(diethoxyphosphorylmethoxy)propoxy]amino]-4-chloro-5-formamidopyrimidine
A mixture of 4,6-dichloro-5-formamidopyrimidine (0.77 g, 4.0 mmol), diethyl [2-acetoxy-1-(aminooxymethyl)ethoxy]methylphosphonate (1.2 g, 4.0 mmol) and triethylamine (0.82 ml, 6 mmol) in dry dioxan (20 ml) was heated at 100° C. for 2 hours. The reaction mixture was cooled, filtered, and the filtrate evaporated to leave an oil which was chromatographed on silica gel (eluant dichloromethane:methanol 97:3) and gave the title compound as a yellow oil (1.08 g, 60%). 1H NMR: δH [(CD3)2SO] 1.23 (6H,t, J=7 Hz, (OCH2CH3)2), 2.03 (3H,s, COCH3), 3.85-4.35 (11H,m, (OCH2CH3)2 +OCH2P+OCH2CHCH2O). m/z: observed 454.1020; C15H24N4O8PCl (M+) requires 454.0996.

reactant | 4,6-dichloro-5-formamidopyrimidine | 4.0 mmol, 0.77 g | ClC1=NC=NC(=C1NC=O)Cl | C5H3Cl2N3O
reactant | diethyl [2-acetoxy-1-(aminooxymethyl)ethoxy]methylphosphonate | 4.0 mmol, 1.2 g | C(C)(=O)OCC(OCP(OCC)(OCC)=O)CON | C10H22NO7P
reactant | triethylamine | 6 mmol, 0.82 ml | C(C)N(CC)CC | C6H15N
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | 6-[[3-Acetoxy-2-(diethoxyphosphorylmethoxy)propoxy]amino]-4-chloro-5-formamidopyrimidine | 1.08 g, 60% | C(C)(=O)OCC(CONC1=C(C(=NC=N1)Cl)NC=O)OCP(=O)(OCC)OCC | C15H24ClN4O8P
